US06008243
According to the procedure described in Example 1(b) for the preparation of 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester, N-t-butoxycarbonyl-D-aspartic acid β-benzyl ester and L-histidinol dihydrochloride were coupled with TBTU to furnish 410 mg (92%) of 3(R)-(t-butoxycarbonylamino)-N-[2-hydroxy-1(S)-[(1H-imidazol-4-yl)methyl]ethyl]succinamic acid benzyl ester as a solid which was used without further purification.

reactant | 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)NC(=O)OC(C)(C)C)=O | C23H35N3O6
reactant | L-histidinol dihydrochloride | Cl.Cl.N[C@@H](CC1=CNC=N1)CO
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | 3(R)-(t-butoxycarbonylamino)-N-[2-hydroxy-1(S)-[(1H-imidazol-4-yl)methyl]ethyl]succinamic acid benzyl ester | 410 mg, 92% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@H](CO)CC=1N=CNC1)NC(=O)OC(C)(C)C)=O | C22H30N4O6
